US05508298
[1] Preparation of (2,2-dimethyl)-5-(4-fluorophenyl)-5-cyclohexene-1-one [V-1].
1-bromo-4-fluorobenzene (7.06 g, 40 mmole) was dissolved in 20 ml of tetrahydrofuran, then the resulting solution was stirred at -78° C. in an argon gas stream. N-butyl lithium (25.2 ml, 1.6 mole solution) was added slowly and the solution was allowed to stand for 15 minutes. A solution of 5 g (40 mmole) of 4,4-dimethyl-2-cyclohexene-1-one in 20 ml of tetrahydrofuran was slowly added to the above solution, and then, the resulting solution was allowed to stand for 30 minutes. Thereafter, a saturated aqueous solution of ammonium chloride was added, the whole solution was poured into ice water, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate to remove the solvent. 20 ml of acetone was added to the residue, until the Jone's reagent previously prepared no longer changed color (until it no longer became green). After 30 minutes, the reaction was ceased by adding isopropyl alcohol. The whole was poured into ice water, and the crude product was extracted with ethyl acetate. The organic layer was dried over sodium sulfate to the solvent was removed by evaporation. The residue was purified by column chromatography (10% ethyl acetate/hexane) to obtain the above-titled compound [V-1] (7.8 g).

reactant | 1-bromo-4-fluorobenzene | 40 mmole, 7.06 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 4,4-dimethyl-2-cyclohexene-1-one | 40 mmole, 5 g | CC1(C=CC(CC1)=O)C | C8H12O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2,2-dimethyl)-5-(4-fluorophenyl)-5-cyclohexene-1-one | 7.8 g | CC1(C(C=C(CC1)C1=CC=C(C=C1)F)=O)C | C14H15FO
